US04780462
5-[3-(2-(2-Nitrophenoxy)ethylamino)propionyl]-2,3,4,5-tetrahydro-1,5-benzothiazepine·fumarate (Compound 14)
A mixture of 2-Nitrophenoxyethylchloride (0.26 g), 5-(3-Amino-propionyl)-1,5-benzothiazepine (0.355 g) and potassium carbonate (0.210 g) in toluene (15 ml) was refluxed for 16 hours. After cooling, objective compound (0.184 g) was obtained according to the method of experimental 1. m.p. 178°-180° C.

reactant | 2-Nitrophenoxyethylchloride | 0.26 g | [N+](=O)([O-])C1=C(OCCCl)C=CC=C1 | C8H8ClNO3
reactant | 5-(3-Amino-propionyl)-1,5-benzothiazepine | 0.355 g | NCCC(=O)N1C=CCSC2=C1C=CC=C2 | C12H14N2OS
reactant | potassium carbonate | 0.210 g | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[3-(2-(2-Nitrophenoxy)ethylamino)propionyl]-2,3,4,5-tetrahydro-1,5-benzothiazepine·fumarate | 0.184 g | [N+](=O)([O-])C1=C(OCCNCCC(=O)N2CCCSC3=C2C=CC=C3)C=CC=C1.C(\C=C\C(=O)[O-])(=O)[O-] | InChI=1S/C20H23N3O4S.C4H4O4/c24-20(22-13-5-15-28-19-9-4-2-7-17(19)22)10-11-21-12-14-27-18-8-3-1-6-16(18)23(25)26;5-3(6)1-2-4(7)8/h1-4,6-9,21H,5,10-15H2;1-2H,(H,5,6)(H,7,8)/p-2/b;2-1+
